US07335658B2
6-[4-(4-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-CYCLOPROPYLPROPYL)AMIDE
Following the procedure of Example 3, making variations only as required to use 4-fluoro-2-trifluoromethylbenzoyl chloride in place of isoxazole-5-carbonyl chloride to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-cyclopropylpropyl)amide, the title compound was obtained as a white powder (49% yield). 1H NMR (300 MHz, CDCl3) δ 8.04, 7.87, 7.45-7.3, 6.99, 4.09-3.98, 3.89-3.67, 3.49, 3.33, 1.75-1.66, 1.28, 0.69-0.62, 0.43-0.37, 0.04-0.03.

reactant | 4-fluoro-2-trifluoromethylbenzoyl chloride | FC1=CC(=C(C(=O)Cl)C=C1)C(F)(F)F | C8H3ClF4O
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (3-cyclopropylpropyl)amide | C1(CC1)CCCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C15H23N5O
product | 6-[4-(4-FLUORO-2-TRIFLUOROMETHYLBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-CYCLOPROPYLPROPYL)AMIDE | C1(CC1)CCCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=C(C=C1)F)C(F)(F)F)=O | C23H25F4N5O2
